US08242133B2
To 7.5 g of 3-trifluoromethylphenol, 9 ml of 70% nitric acid was added dropwise at room temperature and the reaction mixture was stirred for one hour. The reaction mixture was poured into an ice-cooled saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with ethyl acetate twice. The combined organic layers washed with water and a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.56 g of 2-nitro-5-trifluoromethylphenol.

reactant | 3-trifluoromethylphenol | 7.5 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | nitric acid | 9 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 2-nitro-5-trifluoromethylphenol | 1.56 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)O | C7H4F3NO3
